Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]#[C:5][H:6],6.37627827204
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:4],4.194927433999999
[C:8]([H:9])#[C:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:12]([H:10])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-5.57090818355
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],3.4067280134400004
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],2.7472663733
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-3.98403108809
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:5]=[C:6]([H:7])[H:8],0.82441513352
[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[H:7]>>[C:1].[C:2]([O:3][H:4])[C:5](=[O:6])[H:7],6.09100195954
[H:1][C:2]=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-5.05066495815
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.9682137079000004
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][O:4],2.24918025682
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],1.18925513129
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],-0.691371497021
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.83996299881
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:7],1.7937227259
[H:1][C:2].[O:3]=[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]=[C:7]([H:8])[H:9],-3.1393505850700003
[C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.23047614287
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:10][H:11].[H:9],2.2337402962
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:9].[H:4],2.09948646642
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:12].[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](/[H:11])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],1.9608313318
[H:1][C:2][O:3][C:4]#[C:6][O:7][H:8].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-3.01317724068
[C:4](=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.8328330815900005
[H:7].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:8]=[O:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],-2.0702589736
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.30019102018
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.274306755779
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8].[H:9],4.38269447023
[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.13338182924
[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])([H:8])[H:9])[O:10][C:11][H:12]>>[H:1][O:2][C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1[H:12],0.17412274973900002
[C:1]#[C:2][C:3]#[C:4][C:5][O:7][H:8].[H:6]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8],-4.081501287219998
